US06262075B1
(b) 1-Amino-1-cyclopropylcyclopentane
To a solution of sodium azide (3.5 g, 54 mmol) in toluene (25 ml) under nitrogen at room temperature was added trifluoroacetic acid (4 ml, 53 mmol). The mixture was cooled to 0° C. and a solution of the compound of Preparation 11(a) (3.35 g, 26.5 mmol) in toluene (5 ml) was added, dropwise. The mixture was stirred for 4 hours and allowed to warm to room temperature. Concentrated ammonium hydroxide solution (25 ml) was then added. The toluene layer was separated and washed with water (2×20 ml). The organic layer was dried using sodium sulphate and filtered. The filtrate was added, dropwise, to a 1M solution of lithium aluminium hydride in tetrahydrofuran (53 ml) at 5° C. under nitrogen. The mixture was stirred at room temperature for sixteen hours and at 50° C. for one hour. Water (1.8 ml) was then added, dropwise, followed by 3N aqueous sodium hydroxide solution (1.8 ml) and water (5.4 ml). The mixture was stirred for 20 minutes filtered and evaporated under reduced pressure to a volume of approximately 20 ml. The solution was washed with 10% w/w aqueous sodium bicarbonate solution (30 ml) and dried using sodium sulphate. The solvent was removed by evaporation under reduced pressure to provide the title compound (2 g) which was used directly without further purification.

reactant | sodium azide | 54 mmol, 3.5 g | [N-]=[N+]=[N-].[Na+]
reactant | trifluoroacetic acid | 53 mmol, 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Amino-1-cyclopropylcyclopentane | 2 g | NC1(CCCC1)C1CC1 | C8H15N
